US08431563B2
Step 2: 2-(4-(4-((6-amino-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol
A 250-mL round-bottomed flask was charged with 1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol dihydrochloride (2.50 g, 6.23 mmol), 20 mL of CH2Cl2, triethylamine (3.47 mL, 24.93 mmol), and 6-chloropyridine-3-sulfonyl chloride (1.32 g, 6.23 mmol, Organic Process Research & Development 2009, 13, 875). After stirring at room temperature for 30 min, water was added and the layers were separated. The organics were dried (MgSO4), filtered, and concentrated to give an oily solid. To this material was added 10 mL of EtOH and concentrated ammonium hydroxide (9.95 mL, 255 mmol). The vessel was sealed and heated at 120° C. for 12 h. After the mixture was allows to cool to room temperature, EtOAc (100 mL) and water (50 mL) were added. The organics were separated, dried (MgSO4), filtered and concentrated to give an oil. Purification via column chromatography on silica gel (0 to 70% EtOAc in hexanes) delivered 2-(4-(4-((6-amino-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (1.65 g) as an off-white solid. 1H NMR (400 MHz, CD3OD) δ=8.30 (d, J=2.3 Hz, 1H), 7.74 (dd, J=2.4, 8.9 Hz, 1H), 7.56 (d, J=8.8 Hz, 2H), 7.00 (d, J=9.0 Hz, 2H), 6.64 (d, J=8.8 Hz, 1H), 3.35-3.30 (m, 4H), 3.17-3.11 (m, 4H). m/z (ESI, +ve ion) 484.9 (M+H)+. GK-GKRP IC50 (Binding)=0.085 μM; GK-GKRP EC50 (LC MS/MS-2)=0.142 μM.

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol dihydrochloride | 6.23 mmol, 2.50 g | Cl.Cl.FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCNCC1)(F)F
reactant | triethylamine | 24.93 mmol, 3.47 mL | C(C)N(CC)CC | C6H15N
reactant | 6-chloropyridine-3-sulfonyl chloride | 6.23 mmol, 1.32 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | ammonium hydroxide | 255 mmol, 9.95 mL | [OH-].[NH4+]
solvent | water | 50 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-((6-amino-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | NC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C18H18F6N4O3S
